US08710086B2
Preparation of intermediate methyl 2-(4-(butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate
The title compound was prepared according to General Method 5. A solution of 2-(4-(butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid (900 mg, 3.04 mmol) and K2CO3 (1.38 mg, 10 mmol) in DMF (10 mL) was stirred at RT for 10 minutes. Methyl iodide (647 mg, 4.5 mmol) was added and heated at 55° C. for 4 h. The solvent was removed and reaction mixture was poured in water, extracted with ethyl acetate (100 mL, 2 times), dried over Na2SO4, concentrated and purified with column chromatography to obtain 400 mg of methyl 2-(4-(butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate.

reactant | 2-(4-(butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid | 3.04 mmol, 900 mg | C(CCC)NC(=O)C1=C(C=C(C=C1)NC(C(=O)O)(C)C)F | C15H21FN2O3
reactant | K2CO3 | 10 mmol, 1.38 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl iodide | 4.5 mmol, 647 mg | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 2-(4-(butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate | 400 mg | C(CCC)NC(=O)C1=C(C=C(C=C1)NC(C(=O)OC)(C)C)F | C16H23FN2O3
